US08304419B2
Step C: 3-{[3-(aminomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile
A 7M solution of ammonia in MeOH (45.8 mL, 321 mmol) was added to a solution of 3-{[3-(bromomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile (2.3 g, 6.41 mmol) in THF (30 mL) at RT. The reaction was capped and stirred for 16 h at RT then concentrated to dryness under vacuum. Ethyl acetate (200 mL) and saturated aqueous NaHCO3 solution (300 mL) were added. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (2×200 mL), water (200 mL), brine (200 mL), dried over Na2SO4, filtered and concentrated to give a white solid. The crude product was purified on silica gel (10% MeOH/DCM) to give the title compound (1.63 g, 86%) as a white solid (N4011-13-100). 1H NMR (400 MHz, DMSO-d5) δ ppm 7.82 (s, 1H), 7.40-7.66 (m, 3H), 7.31 (t, 1H), 3.75 (s, 2H), 1.86 (br. s., 2H).

reactant | ammonia | N | H3N
reactant | MeOH | 321 mmol, 45.8 mL | CO | CH4O
reactant | 3-{[3-(bromomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile | 6.41 mmol, 2.3 g | BrCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrClF2NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-{[3-(aminomethyl)-2,6-difluorophenyl]oxy}-5-chlorobenzonitrile | 1.63 g, 86% | NCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9ClF2N2O
